US20010009915A1
Step a: Tert-butyl 3-(7-{[(4-chlorophenyl)sulphonyl]amino}-4-[2-(methoxycarbonyl)ethyl] -5,6,7,8-tetrahydro-1-naphthyl)-2-propenoate
1.25 g (4 mmol) of tri-o-tolylphosphine, 8.5 ml of triethylamine, 230 mg (1 mmol) of palladium acetate and 9 ml of tert-butyl acrylate are added to a solution of 10 g (20.5 nmol) of methyl 3-(3-bromo-6-{[(4-chlorophenyl)sulphonyl]amino}-5,6,7,8-tetrahydro-1-naphthyl)propanoate, described in Application EP 864 561, in 250 ml of DMF. The reaction mixture is stirred at 110° C. for 8 hours. The solvent is then evaporated off, and purification by chromatography on silica gel, using as eluant a cyclohexane/ethyl acetate mixture (80/20), yields the expected product.

reactant | tri-o-tolylphosphine | 4 mmol, 1.25 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl acrylate | 9 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | methyl 3-(3-bromo-6-{[(4-chlorophenyl)sulphonyl]amino}-5,6,7,8-tetrahydro-1-naphthyl)propanoate | 20.5 nmol, 10 g | BrC=1C=C(C=2CCC(CC2C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)CCC(=O)OC | C20H21BrClNO4S
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 1 mmol, 230 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Tert-butyl 3-(7-{[(4-chlorophenyl)sulphonyl]amino}-4-[2-(methoxycarbonyl)ethyl] -5,6,7,8-tetrahydro-1-naphthyl)-2-propenoate | ClC1=CC=C(C=C1)S(=O)(=O)NC1CCC=2C(=CC=C(C2C1)C=CC(=O)OC(C)(C)C)CCC(=O)OC | C27H32ClNO6S
